US07566699B2
3-{2-[4-(Carbamoylmethylcarbamoyl)phenyl]ethyl}-4-(β-D-glucopyranosyloxy)benzo[b]thiophene
The title compound was prepared in a similar manner to that described in Example 90 using 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carboxyphenyl)ethyl]-benzo[b]thiophene and glycinamide hydrochloride instead of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-{2-[1-carboxy-1-(methyl)ethylcarbamoyl]ethyl}phenyl)ethyl]-benzofuran and 1-(2-hydroxyethyl)piperazine, respectively.

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carboxyphenyl)ethyl]-benzo[b]thiophene | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC=2SC=C(C21)CCC2=CC=C(C=C2)C(=O)O | C31H32O12S
reactant | glycinamide hydrochloride | Cl.NCC(=O)N
reactant | 1-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 3-{2-[4-(Carbamoylmethylcarbamoyl)phenyl]ethyl}-4-(β-D-glucopyranosyloxy)benzo[b]thiophene | C(N)(=O)CNC(=O)C1=CC=C(C=C1)CCC=1C2=C(SC1)C=CC=C2O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C25H28N2O8S
